US07067540B2
4-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-3,5-dichlorobenzenesulfonamide
A mixture of 3,5-dichloro-4-(4-hydroxy-6-methyl-2-oxopyridin-1(2H)-yl)benzenesulfonamide (0.18 g, 0.0005 mol), N-bromosuccinimide (0.1 g, 0.00056 mol)in acetici acid (2.0 mL) was stirred at room temperature under argon atmosphere for 1 h. Acetic acid was removed in vacuo, the residue was dissolved in DMF (2.0 mL), and added 2,4 difluorobenzyl bromide (0.128 g, 0.0006 mol), potassium carbonate (0.1 g, 0.0007 mol). The resulting mixture was stirred at room temperature for 1 h. The solvents were distilled in vacuo, and the residue was purified by flash chromatography (EtOAc/hexane 1:3 v/v) to give 0.14 g of partially purified product. This was further purified by reverse-phase HPLC using 10-90% CH3CN/Water (30 min gradient) at a flow rate of 100 mL/min. The appropriate fractions (m/z=553) were combined and freeze dried to afford 0.045 g of pale yellow powder. This was partitioned between EtOAc (25 ml) and 5% sod. bicarbonate. The organic phase was washed with water, dried (Na2SO4) and concentrated under reduced pressure. This material was dried invacuo to afford the title compound (0.033 g) as a white amorphous substance:

reactant | 3,5-dichloro-4-(4-hydroxy-6-methyl-2-oxopyridin-1(2H)-yl)benzenesulfonamide | 0.0005 mol, 0.18 g | ClC=1C=C(C=C(C1N1C(C=C(C=C1C)O)=O)Cl)S(=O)(=O)N | C12H10Cl2N2O4S
reactant | N-bromosuccinimide | 0.00056 mol, 0.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,4 difluorobenzyl bromide | 0.0006 mol, 0.128 g | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
reactant | potassium carbonate | 0.0007 mol, 0.1 g | C([O-])([O-])=O.[K+].[K+]
product | 4-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-3,5-dichlorobenzenesulfonamide | 0.045 g | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C1=C(C=C(C=C1Cl)S(=O)(=O)N)Cl)=O | C19H13BrCl2F2N2O4S
